### PR TITLE
Add Erdős Problem 764 (Erdős–Fuchs theorem for three summands), link the formal disproof

### LINKED ISSUE #6244: Erdős Problem 764
### What is the Erdős problem?

https://www.erdosproblems.com/764

Let $A\subseteq \mathbb{N}$. Can there exist some constant $c>0$ such that $\sum_{n\leq N} 1_A\ast 1_A\ast 1_A(n) = cN+O(1)$?

Status: disproved (Vaughan, in the strong form that even an error term $o(N^{1/4}/(\log N)^{1/2})$ is impossible). A formal proof exists in plby/lean-proofs (`Erdos764.not_erdos_764`, Codex and GPT-5.6 Sol). Related to #763.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6244.

### What changed
Adds `FormalConjectures/ErdosProblems/764.lean` with `tripleRep A = 𝟙_A ∗ 𝟙_A ∗ 𝟙_A` (using the existing `sumConv`) and:
- `erdos_764` (`research solved`, `answer(False)`): no `A ⊆ ℕ` and `c > 0` have `∑_{n ≤ N} (1_A ∗ 1_A ∗ 1_A)(n) = cN + O(1)` (Vaughan [Va72]). Linked to plby/lean-proofs `Erdos764.not_erdos_764` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_764.variants.vaughan`: the strong form with error term `o(N^{1/4}/√(log N))`.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos764.not_erdos_764` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's `tripleConv` is the same iterated antidiagonal sum with an `if`-indicator):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics AdditiveCombinatorics Set

namespace Bridge764

lemma indicator_eq (A : Set ℕ) : (𝟙_A : ℕ → ℕ) = Erdos764Plby.indicator A := by
  classical
  ext n
  simp [Set.indicatorOne, Set.indicator, Erdos764Plby.indicator]

lemma tripleRep_eq (A : Set ℕ) : Erdos764.tripleRep A = Erdos764Plby.tripleConv A := by
  ext n
  simp only [Erdos764.tripleRep, sumConv, Erdos764Plby.tripleConv, Erdos764Plby.addConv,
    indicator_eq]

lemma summatory_eq (A : Set ℕ) (N : ℕ) :
    ∑ n ∈ Finset.range (N + 1), Erdos764.tripleRep A n = Erdos764Plby.summatory A N := by
  simp only [Erdos764Plby.summatory, tripleRep_eq]

theorem erdos_764_bridge : type_of% Erdos764.erdos_764 := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨A, c, hc, h⟩
  refine Erdos764Plby.not_erdos_764 ⟨A, c, hc, ?_⟩
  refine h.congr_left fun N => ?_
  simp only [Erdos764Plby.remainder, ← summatory_eq]
  push_cast
  rfl

end Bridge764
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«764»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/764.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/764.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
